US07754737B2
A solution of tert-butyl (S)-1-(trans-4-fluorocyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate (550 mg, 1.3 mmol) in TFA/CH2Cl2 (20 mL, v/v 20%) was stirred for 1 h at rt, quenched with satd aq NaHCO3 until no further gas evolution was visible and extracted with CH2Cl2 (2×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and condensed under reduced pressure to obtain benzyl (S)-2-amino-3-(cis-4-fluorocyclohexyl)propylmethylcarbamate (400 mg, yield 95%). 1H NMR (CDCl3, 400 MHz) δ 1.42 (m, 4H), 1.64 (m, 4H), 2.98 (d, 3H), 3.21 (m, 1H), 3.50 (m, 1H), 3.90 (m, 1H), 5.13 (d, 2H), 7.33 (m, 5H).

reactant | tert-butyl (S)-1-(trans-4-fluorocyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate | 1.3 mmol, 550 mg | F[C@@H]1CC[C@H](CC1)C[C@@H](CN(C)C(=O)OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C23H35FN2O4
solvent | TFA CH2Cl2 | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | benzyl (S)-2-amino-3-(cis-4-fluorocyclohexyl)propylmethylcarbamate | 400 mg, yield 95% | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)C[C@@H]1CC[C@@H](CC1)F | C18H27FN2O2
